US07897631B2
4-But-3-ynyl-1H-imidazol-2-ylamine hydrochloride (0.062 g, 0.362) was reacted with (3-Azido-2-methyl-propenyl)-benzene (0.075 g, 0.434 mmol) following the general procedure for click reactions outlined above to produce 4-{2-[1-(2-Methyl-3-phenyl-allyl)-1H-[1,2,3]triazol-4-yl]-ethyl}-1H-imidazol-2-ylamine hydrochloride (0.054 g, 43%) of a pale yellow oil. 1H NMR (300 MHz, CD3OD) δ 8.39 (s, 1H), δ 7.12-7.07 (m, 5H), δ 6.54 (s, 1H), δ 6.36 (s, 1H), δ 5.09 (s, 2H), δ 3.01 (t, 2H), δ 2.76 (t, 2H), δ 1.60 (s, 3H) ppm; 13C; 147.7, 143.1, 136.3, 132.7, 129.9, 128.9, 128.6, 128.5, 128.2, 127.4, 127.1, 124.9, 109.9, 61.2, 23.0, 22.3, 14.7 ppm; HRMS (ESI) calcd for C16H20N6(M+) 308.1749. found 308.1742.

reactant | 4-But-3-ynyl-1H-imidazol-2-ylamine hydrochloride | 0.062 g | Cl.C(CC#C)C=1N=C(NC1)N
reactant | (3-Azido-2-methyl-propenyl)-benzene | 0.434 mmol, 0.075 g | N(=[N+]=[N-])CC(=CC1=CC=CC=C1)C | C10H11N3
product | 4-{2-[1-(2-Methyl-3-phenyl-allyl)-1H-[1,2,3]triazol-4-yl]-ethyl}-1H-imidazol-2-ylamine hydrochloride | 0.054 g, 43% | Cl.CC(CN1N=NC(=C1)CCC=1N=C(NC1)N)=CC1=CC=CC=C1 | InChI=1S/C17H20N6.ClH/c1-13(9-14-5-3-2-4-6-14)11-23-12-16(21-22-23)8-7-15-10-19-17(18)20-15;/h2-6,9-10,12H,7-8,11H2,1H3,(H3,18,19,20);1H
